US07910588B2
Suspend lithium aluminum hydride (0.359 g, 9.46 mmol) in tetrahydrofuran (25 mL) at −10° C. and add 3,5-dimethyl-1-pyridin-2-yl-1H-pyrazole-4-carboxylic acid ethyl ester (1.160 g, 4.73 mmol) dropwise in tetrahydrofuran (5 mL). Allow the mixture to warm to 25° C. and stir for 4 hr. Cool the mixture to 0° C. then quench carefully with saturated sodium sulfate solution (1 mL). Allow the mixture to stir at room temperature for 2 hr. then filter off the precipitate, dry the solution and concentrate to give (3,5-dimethyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-methanol as a yellow solid (0.821 g, 86%).

reactant | lithium aluminum hydride | 9.46 mmol, 0.359 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3,5-dimethyl-1-pyridin-2-yl-1H-pyrazole-4-carboxylic acid ethyl ester | 4.73 mmol, 1.160 g | C(C)OC(=O)C=1C(=NN(C1C)C1=NC=CC=C1)C | C13H15N3O2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (3,5-dimethyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-methanol | 0.821 g, 86% | CC1=NN(C(=C1CO)C)C1=NC=CC=C1 | C11H13N3O
